US06642390B2
1. 3,5-Difluorophenyl azide
3,5-Difluoroaniline (64.5 g, 0.5 mol) is added to a solution of water (206 ml) and concentrated hydrochloric acid (116 ml). The resulting solution is stirred for 10 minutes and cooled to 0° C. A solution of sodium nitrate (37.4 g, 0.54 mol) in water (125 ml) is added in a dropwise manner. After being stirred for one hour, the mixture is filtered and the filtrate is cooled to 0° C. A solution of sodium azide (40.2 g, 0.62 mol) in water (125 ml) is added in a dropwise manner, and stirring is allowed to continue for 30 minutes. The reaction mixture is extracted with ether (3×250 ml), and the combined organic extracts are washed with saturated sodium bicarbonate solution (250 ml) and then brine (250 ml), and dried over sodium sulfate. Removal of the volatiles in vacuo affords pure title compound as a yellow liquid (70 g, 90%).

reactant | 3,5-Difluoroaniline | 0.5 mol, 64.5 g | FC=1C=C(N)C=C(C1)F | C6H5F2N
reactant | hydrochloric acid | 116 ml | Cl | ClH
reactant | sodium nitrate | 0.54 mol, 37.4 g | [N+](=O)([O-])[O-].[Na+]
reactant | sodium azide | 0.62 mol, 40.2 g | [N-]=[N+]=[N-].[Na+]
solvent | water | 125 ml | O | H2O
solvent | water | 125 ml | O | H2O
solvent | water | 206 ml | O | H2O
product | 3,5-Difluorophenyl azide | 70 g, 90% | FC=1C=C(C=C(C1)F)N=[N+]=[N-] | C6H3F2N3
